US07683187B2
3500 ml water, 200 g hexanal (2 mol) and 305 g allyl chloride (4 mol), 900 g tin(II) chloride dihydrate (2 mol) and 25 g copper powder (0.4 mol) was added into a 61 flask. The reaction mixture was stirred at ca. 30° C. for 8 h. The organic phase was separated by decantation or centrifugation and the crude raw product distilled in vacuo to give 4-hydroxy-1-nonene. MS: m/z 141 (M-1), 101 (M-C3H5), 124 (M-18), 83 (101-18), 55 (83-C2H4).

reactant | hexanal | 2 mol, 200 g | C(CCCCC)=O | C6H12O
reactant | allyl chloride | 4 mol, 305 g | C(C=C)Cl | C3H5Cl
reactant | tin(II) chloride dihydrate | 2 mol, 900 g | O.O.[Sn](Cl)Cl
catalyst | copper | 0.4 mol, 25 g | [Cu] | Cu
solvent | water | 3500 ml | O | H2O
product | 4-hydroxy-1-nonene | OC(CC=C)CCCCC | C9H18O
